* jjt 5/11/2001: replaced pSpice poly statements with dependent sources.
**********
* INA121E = A1_121E + A2_121E + A3_121E OP AMPS + PRECISION RESISTOR NETWORK
* V.1 CREATED BY JW 6/4/98
*
*
*
***** INA121E SUB-CIRCUIT
* CONNECTIONS: NON-INVERTING INPUT
*               | INVERTING INPUT
*               | | POSITIVE POWER SUPPLY
*               | | | NEGATIVE POWER SUPPLY
*               | | | | OUTPUT
*               | | | | | REFERENCE
*               | | | | | | GAIN SENSE 1
*               | | | | | | | GAIN SENSE 2
*               | | | | | | | |
.SUBCKT INA121E 1 2 3 4 5 8 9 10
*
***** A1_121E SUB-CIRCUIT
* CONNECTIONS: NON-INVERTING INPUT
* | INVERTING INPUT
* | | POSITIVE POWER SUPPLY
* | | | NEGATIVE POWER SUPPLY
* | | | | OUTPUT
* | | | | |
X1 15 17 3 4 11 A1_121E
*
***** A2_121E SUB-CIRCUIT
* CONNECTIONS: NON-INVERTING INPUT
* | INVERTING INPUT
* | | POSITIVE POWER SUPPLY
* | | | NEGATIVE POWER SUPPLY
* | | | | OUTPUT
* | | | | |
X2 15 16 3 4 12 A2_121E
*
***** A3_121E SUB-CIRCUIT
* CONNECTIONS: NON-INVERTING INPUT
* | INVERTING INPUT
* | | POSITIVE POWER SUPPLY
* | | | NEGATIVE POWER SUPPLY
* | | | | OUTPUT
* | | | | |
X3 14 13 3 4 5 A3_121E
*
CIN 13 14 4PF
C4 14 8 .50000E-12
CC1 17 11 11.00E-12
CC2 16 12 11.00E-12
CG1 9 0 11.500E-12
CG2 10 0 10.000E-12
*
R1 11 13 40.0000E3
R2 13 5 39.996E3
R3 12 14 40.0000E3
R4 14 8 40.0000E3
*
R1FB 9 11 25.0000E3
R2FB 10 12 25.0000E3
*
RCE 17 9 500E6
*
I1 3 16 DC 10.00E-6
I2 3 17 DC 10.00E-6
I3 10 4 DC 10.00E-6
I4 9 4 DC 10.00E-6
I5 3 21 DC 30.00E-6
I6 3 22 DC 30.00E-6
*
Q1 16 21 10 QX
Q2 17 22 9 QX
*
D1 17 15 DX
D2 16 15 DX
D12 15 17 DX
D22 15 16 DX
*
J1 4 31 21 JX
J2 4 33 22 JX
*G11 31 4 POLY(2) (21,1) (4,1) 28E-12 3E-12 4.2E-12
BG11 31 4 I = 28E-12 + 3E-12*V(21,1) + 4.2E-12*V(4,1)

*G21 33 4 POLY(2) (22,2) (4,2) 28E-12 3E-12 4.2E-12
BG21 33 4 I = 28E-12 + 3E-12*V(22,2) + 4.2E-12*V(4,2)
V1 3 15 DC 1.000
*
******************************
* *
* Additions for the INA121E *
* (Enhanced) macromodel *
* *
******************************
*************************
* *
* Anti-inversion clamps *
* *
*************************
* POS INPUT PROTECTION
RINP 1 30 10
J1P 31 32 30 jy 15x
J2P 32 32 30 jz 1x
D1P 31 3 dx
D2P 4 31 dx
* NEG INPUT PROTECTION
RINN 2 35 10
J1N 33 34 35 jy 15x
J2N 34 34 35 jz 1x
D1N 33 3 dx
D2N 4 33 dx
.MODEL DX D(IS=1.0E-24)
.MODEL QX NPN(IS=800.0E-18 BF=500)
.MODEL JX PJF(IS=1E-12 BETA=750.0E-6 VTO=-1)
.MODEL JY PJF(IS=800.0E-18 VTO=-1.2 BETA=10U LAMBDA=13M)
.MODEL JZ PJF(IS=800.0E-18 VTO=-1.2 BETA=1U LAMBDA=13M)
.ENDS

* A1_121E operational amplifier "macromodel" subcircuit
* created using Parts release 8.0 on 05/28/98 at 13:16
* Parts is a MicroSim product.
*
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | output
* | | | | |
.subckt A1_121E 1 2 3 4 5
*
c1 11 12 2.8868E-12
c2 6 7 10.000E-12
css 10 99 1.0000E-30
dc 5 53 dy
de 54 5 dy
dlp 90 91 dx
dln 92 90 dx
dp 4 3 dx
egnd 99 0 poly(2) (3,0) (4,0) 0 .5 .5
*fb 7 99 poly(5) vb vc ve vlp vln 0 17.684E6 -1E3 1E3 18E6 -18E6
BFB 7 99 I = 17.684E6*I(VB) -1E3*I(VC) + 1E3*I(VE) + 18E6*I(VLP) -18E6*I(VLN)

ga 6 0 11 12 1.2566E-3
gcm 0 6 10 99 12.566E-9
iss 3 10 dc 12.000E-6
hlim 90 0 vlim 1K
j1 11 2 10 jx1
j2 12 1 10 jx2
r2 6 9 100.00E3
rd1 4 11 795.77
rd2 4 12 795.77
ro1 8 5 1
ro2 7 99 9
rp 3 4 3E6
rss 10 99 16.667E6
vb 9 0 dc 0
vc 3 53 dc 1.6621
ve 54 4 dc 1.0621
vlim 7 8 dc 0
vlp 91 0 dc 5
vln 0 92 dc 5
******************************
* *
* Additions for the INA121E *
* (Enhanced) macromodel *
* A1_121E sub-circuit *
* *
******************************
* OUTPUT SUPPLY MIRROR
*FQ3 0 20 POLY(1) VLIM 0 1
BFQ3 0 20 I = I(VLIM)

DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0
*FQ1 3 0 POLY(1) VQ1 70u 1
BFQ1 3 0 I = 70E-6 + I(VQ1)

*FQ2 0 4 POLY(1) VQ2 70u -1
BFQ2 0 4 I = 70E-6 - I(VQ2)

.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 PJF(Is=1.5000E-12 Beta=.13159 Vto=-1)
.model jx2 PJF(Is=1.5000E-12 Beta=.13159 Vto=-1)
.ends

* A2_121E operational amplifier "macromodel" subcircuit
* created using Parts release 8.0 on 05/28/98 at 13:16
* Parts is a MicroSim product.
*
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | output
* | | | | |
.subckt A2_121E 1 2 3 4 5
*
c1 11 12 2.8868E-12
c2 6 7 10.000E-12
css 10 99 1.0000E-30
dc 5 53 dy
de 54 5 dy
dlp 90 91 dx
dln 92 90 dx
dp 4 3 dx
egnd 99 0 poly(2) (3,0) (4,0) 0 .5 .5
*fb 7 99 poly(5) vb vc ve vlp vln 0 17.684E6 -1E3 1E3 18E6 -18E6
BFB 7 99 I = 17.684E6*I(VB) -1E3*I(VC) + 1E3*I(VE) + 18E6*I(VLP) -18E6*I(VLN)

ga 6 0 11 12 1.2566E-3
gcm 0 6 10 99 12.566E-9
iss 3 10 dc 12.000E-6
hlim 90 0 vlim 1K
j1 11 2 10 jx1
j2 12 1 10 jx2
r2 6 9 100.00E3
rd1 4 11 795.77
rd2 4 12 795.77
ro1 8 5 1
ro2 7 99 9
rp 3 4 3E6
rss 10 99 16.667E6
vb 9 0 dc 0
vc 3 53 dc 1.6621
ve 54 4 dc 1.0621
vlim 7 8 dc 0
vlp 91 0 dc 5
vln 0 92 dc 5
******************************
* *
* Additions for the INA121E *
* (Enhanced) macromodel *
* A2_121E sub-circuit *
* *
******************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0
*FQ1 3 0 POLY(1) VQ1 70u 1
BFQ1 3 0 I = 70E-6 + I(VQ1)

*FQ2 0 4 POLY(1) VQ2 70u -1
BFQ2 0 4 I = 70E-6 - I(VQ2)

.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 PJF(Is=1.5000E-12 Beta=.13159 Vto=-1)
.model jx2 PJF(Is=1.5000E-12 Beta=.13159 Vto=-1)
.ends

* A3_121E operational amplifier "macromodel" subcircuit
* created using Parts release 8.0 on 05/28/98 at 13:18
* Parts is a MicroSim product.
*
* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | output
* | | | | |
.subckt A3_121E 1 2 3 4 5
*
c1 11 12 1.6246E-12
c2 6 7 10.000E-12
cee 10 99 714.29E-15
dc 5 53 dy
de 54 5 dy
dlp 90 91 dx
dln 92 90 dx
dp 4 3 dx
*egnd 99 0 poly(2) (3,0) (4,0) 0 .5 .5
BEGND 99 0 V = 0.5*V(3,0) + 0.5*V(4,0)

*fb 7 99 poly(5) vb vc ve vlp vln 0 1.3263E9 -1E3 1E3 1E9 -1E9
BFB 7 99 I = 1.3263E9*I(VB) -1E3*I(VC) + 1E3*I(VE) + 1E9*I(VLP) -1E9*I(VLN)

ga 6 0 11 12 50.265E-6
gcm 0 6 10 99 502.65E-12
iee 3 10 dc 7.5400E-6
hlim 90 0 vlim 1K
q1 11 2 13 qx1
q2 12 1 14 qx2
r2 6 9 100.00E3
rc1 4 11 19.894E3
rc2 4 12 19.894E3
re1 13 10 12.928E3
re2 14 10 12.928E3
ree 10 99 26.525E6
ro1 8 5 1
ro2 7 99 9
rp 3 4 3E6
vb 9 0 dc 0
vc 3 53 dc 1.6905
ve 54 4 dc 1.0905
vlim 7 8 dc 0
vlp 91 0 dc 15
vln 0 92 dc 15
******************************
* *
* Additions for the INA121E *
* (Enhanced) macromodel *
* A3_121E sub-circuit *
* *
******************************
*OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0
*FQ1 3 0 POLY(1) VQ1 150U 1
BFQ1 3 0 I = 150E-6 + I(VQ1)

*FQ2 0 4 POLY(1) VQ2 150U -1
BFQ2 0 4 I = 150E-6 - I(VQ2)

.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=187.50)
.model qx2 PNP(Is=800.00E-18 Bf=187.50)
.ends
*********
